US07452909B2
3-[1-(5-Chloro-pyridin-3-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile
The title compound, MS: m/e=333.1 (M+H30), was prepared in accordance with the general method of example 1 from 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile and 3-chloro-5-chloromethyl-pyridine hydrochloride.

reactant | 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile | CC=1NC=C(N1)C#CC=1C=C(C#N)C=CC1 | C13H9N3
reactant | 3-chloro-5-chloromethyl-pyridine hydrochloride | Cl.ClC=1C=NC=C(C1)CCl
product | 3-[1-(5-Chloro-pyridin-3-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-benzonitrile | ClC=1C=C(C=NC1)CN1C(=NC(=C1)C#CC=1C=C(C#N)C=CC1)C | C19H13ClN4
